US05665754
To a slurry of NaH (1.1 g, 27.5 mmol) in 80 mL of THF at 0° C. was added dropwise a solution of diethyl cyanomethylphosphonate (4.42 g, 24.9 mmol) in 20 mL of THF. The mixture was stirred for 30 min, and a solution of 3-cyclopentoxy-4-methoxybenzaldehyde (5.0 g, 22.7 mmol) in 20 mL of THF was then added dropwise. The mixture was for 2 hr and then diluted with ether. The mixture was washed with 1M H3PO4, H2O, and brine. The organic layer was dried over MgSO4, filtered, and concentrated under reduced pressure to yield 3-cyclopentoxy-4-methoxycinnamonitrile (4.8 g, 87%) as a yellow oil, which was carried on without further purification. 1H-NMR (300 MHz): δ 3.89 (s, 3), 5.69 (d, 1, J=16.6).

reactant | NaH | 27.5 mmol, 1.1 g | [H-].[Na+]
reactant | diethyl cyanomethylphosphonate | 24.9 mmol, 4.42 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 3-cyclopentoxy-4-methoxybenzaldehyde | 22.7 mmol, 5.0 g | C1(CCCC1)OC=1C=C(C=O)C=CC1OC | C13H16O3
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 3-cyclopentoxy-4-methoxycinnamonitrile | 4.8 g, 87% | C1(CCCC1)OC=1C=C(C=CC#N)C=CC1OC | C15H17NO2
